### PR TITLE
feat: add `List.swap` primitive.

### PR DESCRIPTION
**Pull request by wrenna-robson**
Adds `List.swap` primitive, corresponding to `Array.swapIfInBounds` in the same way that `List.set` corresponds to `Array.setIfInBounds`.

### CODE REVIEW

File: Batteries/Data/List/Basic.lean [hunk 1]
```diff
@@ -1111,3 +1111,48 @@ Examples:
 -/
 def partialProds [Mul α] [One α] (l : List α) : List α :=
   l.scanl (· * ·) 1
+
+/-- `swapAt xs i v` sets position `i` of `xs` to `v` and returns the displaced
+element, or `v` itself (with `xs` unchanged) if `i` is out of bounds. -/
+def swapAt (xs : List α) (i : Nat) (v : α) : α × List α := (xs[i]?.getD v, xs.set i v)
+
+/-- Tail-recursive version of `swapAt`. -/
+def swapAtTR (l : List α) (i : Nat) (v : α) : α × List α := go l i #[] where
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]:
```suggestion
@[inline] def swapAtTR (l : List α) (i : Nat) (v : α) : α × List α := go l i #[] where
```

File: Batteries/Data/List/Basic.lean [hunk 2]
```diff
@@ -1111,3 +1111,48 @@ Examples:
...
+
+/-- `l.swap i j` exchanges the elements at positions `i` and `j` of `l`.
+If either index is out of bounds, `l` is returned unchanged. -/
+def swap : List α → Nat → Nat → List α
+  | [], _, _ => [] | a :: xs, 0, 0 => a :: xs
+  | a :: xs, 0, i + 1 | a :: xs, i + 1, 0 => xs[i]?.getD a :: xs.set i a
+  | a :: xs, i + 1, j + 1 => a :: swap xs i j
+
+/-- Tail-recursive version of `swap`. -/
+def swapTR (l : List α) (i j : Nat) : List α := go l i j #[] where
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]:
```suggestion
@[inline] def swapTR (l : List α) (i j : Nat) : List α := go l i j #[] where
```

File: Batteries/Data/List/Lemmas.lean [hunk 3]
```diff
@@ -1370,3 +1374,52 @@ grind_pattern min!_eq_min_of_ne_nil => l.min! where
...
+
+/-! ### swapAt -/
+
+@[simp, grind =] theorem swapAt_def : swapAt xs i v = (xs[i]?.getD v, xs.set i v) := rfl
+
+/-! ### swap -/
+
+@[simp] theorem swap_nil : ([] : List α).swap i j = [] := rfl
+
+@[simp] theorem swap_cons_succ_succ :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: I think the modern trend is to avoid `succ`, so `swap_cons` is probably better.

File: Batteries/Data/List/Lemmas.lean [hunk 4]
```diff
@@ -1370,3 +1374,52 @@ grind_pattern min!_eq_min_of_ne_nil => l.min! where
...
+    (a :: xs).swap (i + 1) (j + 1) = a :: xs.swap i j := rfl
+
+@[grind =] theorem swap_eq : ∀ (xs : List α) (i j : Nat),
+    xs.swap i j = if hi : i < xs.length ∧ j < xs.length then
+    (xs.set i xs[j]).set j xs[i] else xs
+  | [], _, _ | _ :: _, 0, 0 | a :: xs, 0, j+1 | a :: xs, i+1, 0 => by
+    simp [getElem?_getD_cons_set, swap]
+  | a :: xs, i+1, j+1 => by simp [swap_eq xs i j, apply_dite (a :: ·)]
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: This is correct but hard to parse.
```suggestion
@[grind =] theorem swap_eq (xs : List α) (i j : Nat) :
    xs.swap i j = if hi : i < xs.length ∧ j < xs.length then
    (xs.set i xs[j]).set j xs[i] else xs :=
  match xs, i, j with
  | [], _, _ | _ :: _, 0, 0 | a :: xs, 0, j+1 | a :: xs, i+1, 0 => by
    simp [getElem?_getD_cons_set, swap]
  | a :: xs, i+1, j+1 => by simp [swap_eq xs i j, apply_dite (a :: ·)]
```

File: Batteries/Data/List/Lemmas.lean [hunk 5]
```diff
@@ -1370,3 +1374,52 @@ grind_pattern min!_eq_min_of_ne_nil => l.min! where
...
+
+@[simp] theorem length_swap {xs : List α} : (xs.swap i j).length = xs.length := by grind
+
+theorem getElem_swap {xs : List α} {i j k : Nat}
+    (hk : k < (xs.swap i j).length) : (xs.swap i j)[k] =
+    if h₁ : k = i ∧ j < xs.length then xs[j] else if h₂ : k = j ∧ i < xs.length then xs[i]
+    else xs[k]'(by grind) := by grind
+
+@[simp] theorem getElem_swap_left {xs : List α} {i j : Nat} (hj : j < xs.length)
+    (hi : i < (xs.swap i j).length) : (xs.swap i j)[i] = xs[j] := by grind
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: simp?

File: Batteries/Data/List/Lemmas.lean [hunk 6]
```diff
@@ -1370,3 +1374,52 @@ grind_pattern min!_eq_min_of_ne_nil => l.min! where
...
+
+@[simp] theorem getElem_swap_right {xs : List α} {i j : Nat} (hi : i < xs.length)
+    (hj : j < (xs.swap i j).length) : (xs.swap i j)[j] = xs[i] := by grind
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: simp?

File: Batteries/Data/List/Lemmas.lean [hunk 7]
```diff
@@ -1370,3 +1374,52 @@ grind_pattern min!_eq_min_of_ne_nil => l.min! where
...
+
+@[simp] theorem getElem_swap_of_ne_of_ne {xs : List α} {i j k : Nat} (hi : k ≠ i) (hj : k ≠ j)
+    (hk : k < (xs.swap i j).length) : (xs.swap i j)[k] = xs[k]'(by grind) := by grind
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: simp?

File: Batteries/Data/List/Perm.lean [hunk 8]
```diff
@@ -316,6 +317,27 @@ theorem perm_insertP (p : α → Bool) (a l) : insertP p a l ~ a :: l := by
...
+
+@[simp] theorem swap_perm : ∀ (xs : List α) (i j : Nat), xs.swap i j ~ xs
+  | [], _, _ => .refl []
+  | _ :: _, 0, 0 => .refl (_ :: _)
+  | a :: xs, 0, j+1 => getD_set_perm_cons xs j a
+  | a :: xs, i+1, 0 => getD_set_perm_cons xs i a
+  | a :: xs, i+1, j+1 => (swap_perm xs i j).cons a
+
+@[simp, grind =]
+theorem mem_swap (xs : List α) (i j : Nat) (a : α) : a ∈ xs.swap i j ↔ a ∈ xs :=
```
Comment (fgdorais) [inline Batteries/Data/List/Perm.lean]:
```suggestion
theorem mem_swap {xs : List α} (i j : Nat} {a : α} : a ∈ xs.swap i j ↔ a ∈ xs :=
```

**Review by fgdorais — APPROVED** [review]
